US09382225B2
Transfer Hydrogenolysis of 1-Phenylethane-1,2-diol
Pd/C (5 mol %) is weighed into a reaction flask. A solvent mixture consisting of ethanol and water (4:1) and ammonium formate (30 mol %) is added, the reaction flask is capped with a rubber septa and the mixture is heated (80° C.) for 2 minutes. Formic acid (3 equivalents) and then benzyl alcohol are added by syringe. The reaction is run for 10-40 minutes and the reaction is quenched with brine. The product is extracted by DCM and the organic phase is dried by Na2SO4. The product 1-phenyl-2-propanol was analyzed by 1H NMR and produced in 60% yield.

reactant | ethanol | C(C)O | C2H6O
reactant | ammonium formate | C(=O)[O-].[NH4+]
reactant | Formic acid | 3 equivalents | C(=O)O | CH2O2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
catalyst | Pd/C | [Pd] | Pd
solvent | water | O | H2O
product | 1-Phenylethane-1,2-diol | 60% yield | C1(=CC=CC=C1)C(CO)O | C8H10O2
